US05350748
A solution of 5-methoxy-3-(1-methylethoxy)-2-benzofurancarboxylic acid (250 mg, 1.00 mmol) [Connor, et al., J. Med. Chem. 35, 935(1992)] and 1,1'-carbonyldiimidazole (211 mg, 1.30 mmol) in 7 mL of tetrahydrofuran is heated at reflux for 1 hour. The reaction solution is cooled to room temperature and benzylamine (0.66 mL, 6.00 mmol) is added and the reaction mixture is stirred at room temperature overnight. The reaction is diluted with ethyl acetate and washed with brine. The organic phase is dried over magnesium sulfate, filtered, and concentrated in vacuo. Chromatography eluting with ethyl acetate:hexane (1:3 to 1:1) provides 5-methoxy-3-(1-methylethoxy)-N-(phenylmethyl)-2-benzofurancarboxamide in 79% yield; mp=68°-69° C.

reactant | 5-methoxy-3-(1-methylethoxy)-2-benzofurancarboxylic acid | 1.00 mmol, 250 mg | COC=1C=CC2=C(C(=C(O2)C(=O)O)OC(C)C)C1 | C13H14O5
reactant | 1,1'-carbonyldiimidazole | 1.30 mmol, 211 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | benzylamine | 6.00 mmol, 0.66 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-methoxy-3-(1-methylethoxy)-N-(phenylmethyl)-2-benzofurancarboxamide | 79% yield | COC=1C=CC2=C(C(=C(O2)C(=O)NCC2=CC=CC=C2)OC(C)C)C1 | C20H21NO4
